US08309550B2
A solution of 5-chloro-7-methyl-1H-pyrrolo[3,2-b]pyridine (5 mmol) in dry DMF (10 mL) cooling on an ice bath was treated with NaH (60 mmol) under N2. After stirring at room temperature for 45 minutes iodopropane (10 mmol) was added. The mixture was allowed to react for further 3 hrs. Upon cooling on an ice bath it was treated with H2O (3 mL). The mixture was then extracted with diethyl ether (4×50 mL). The ether layers were combined, washed with brine, dried on MgSO4 and filtered. The solvent was evaporated to give 5-chloro-7-methyl-1-propyl-1H-pyrrolo[3,2-b]pyridine as orange oil. 1H-NMR (DMSO-d6) δ: 0.85 (t, 3H, J=7.6 Hz, CH3), 1.75 (m, 2H, CH2), 4.28 (t, 2H, J=7.6 Hz, CH2), 6.48 (d, 1H, J=3.2 Hz, Ar—H), 6.97 (s, 1H, Ar—H), 7.66 (d, 1H, J=3.6 Hz, Ar—H). MS (ESI+) m/z 209.0648 (M+H)+.

reactant | 5-chloro-7-methyl-1H-pyrrolo[3,2-b]pyridine | 5 mmol | ClC1=CC(=C2C(=N1)C=CN2)C | C8H7ClN2
reactant | NaH | 60 mmol | [H-].[Na+]
reactant | iodopropane | 10 mmol | ICCC | C3H7I
reactant | H2O | 3 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-chloro-7-methyl-1-propyl-1H-pyrrolo[3,2-b]pyridine | ClC1=CC(=C2C(=N1)C=CN2CCC)C | C11H13ClN2
